US04904648
Determination of cyclic AMP in the uterus
Uterus homogenate is prepared as described in Example 5 from rats treated with beta-estradiol diacetate. The buffer used for the homogenization is composed of 0.14 mol/l NaCl, 5 mmol/l KCl, 10 mmol/l glucose, 10 mmol/l acetic acid, 2 mmol/l disodium hydrogen phosphate, 20 mmol/l tris-HCl, 0.001% phenol red, 1.2 mol/l MgSO4, 0.8 mmol/l CaCl2 and 0.01 mmol/l isobutylmethylxanthine. Before use, this buffer is brought to pH 7.4 by passing in CO2 gas. 10 ml of the uterus homogenate are now incubated with 0.3 mmol/l tritiated adenine at 37° C. for 40 minutes. The tissue is now filtered, again taken up in the above buffer, and subsequently divided up in such a way that each portion is suspended in 10 ml of the said buffer. After a preincubation period of 5 minutes, the active substances specified in Tab. 2 are added, and the mixture is incubated for a further 100 minutes. It is then filtered again, the tissue is deep-frozen in liquid nitrogen and crushed, and the resulting powder is homogenized in 1 ml of 6% strength trichloroacetic acid. Cyclic AMP is subsequently separated out and quantified by column chromatography as in Analytical Biochemistry 58, (1974) 541-548 (in particular Method C, page 543). Tab. 2 shows the results:

reactant | beta-estradiol diacetate | CC(=O)OC1CCC2C1(CCC3C2CCC4=C3C=CC(=C4)OC(=O)C)C | C22H28O4
reactant | NaCl | 0.14 mol/l | [Na+].[Cl-]
reactant | KCl | 5 mmol/l | [Cl-].[K+]
reactant | glucose | 10 mmol/l | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | disodium hydrogen phosphate | 2 mmol/l | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | phenol red | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C19H14O5S
reactant | MgSO4 | 1.2 mol/l | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | CaCl2 | 0.8 mmol/l | [Cl-].[Cl-].[Ca+2]
reactant | isobutylmethylxanthine | 0.01 mmol/l | CC(C)CN1C2=C(N=CN2)C(=O)N(C1=O)C | C10H14N4O2
reactant | adenine | 0.3 mmol/l | N1=CN=C2N=CNC2=C1N | C5H5N5
solvent | CO2 | C(=O)=O | CO2
solvent | acetic acid | 10 mmol/l | C(C)(=O)O | C2H4O2
product | cyclic AMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
